US04990508
5 ml of trifluoroacetic acid was added to 570 mg of ethyl (S)-10-(2-tert-butoxycarbonylcyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate. The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. Diethyl ether was added to the residue obtained. The resulting crystals were collected by filtration to obtain 460 mg (yield: 92.9%) of ethyl (S)-10-(2-carboxycyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate.

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl (S)-10-(2-tert-butoxycarbonylcyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 570 mg | C(C)(C)(C)OC(=O)C1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C23H26FNO6
product | ethyl (S)-10-(2-carboxycyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 460 mg, yield: 92.9% | C(=O)(O)C1C(C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C19H18FNO6
